US05494888
Preparation of 6-Chloro-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid 4-pyridylthio ester (II-2)
31.0 g of 6-chloro-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid, 22.0 g of 4,4'-dipyridylsulfide and 26.2 g of triphenylphosphine were suspended in 250 ml of toluene, and were violently stirred at room temperature for 2 hours. The reaction mixture was filtered, and the toluene was distilled off under reduced pressure. The residue thus obtained was purified by silica gel column chromatography to obtain 36.0 g of the above identified compound as a white crystal (yield 90%).

reactant | 6-chloro-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid | 31.0 g | ClC1=CC=CC(=C1C(=O)O)OC1=NC(=CC(=N1)OC)OC | C13H11ClN2O5
reactant | 4,4'-dipyridylsulfide | 22.0 g | C1=CN=CC=C1SC2=CC=NC=C2 | C10H8N2S
reactant | triphenylphosphine | 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid 4-pyridylthio ester | yield 90% | N1=CC=C(C=C1)SOC(C1=C(C=CC=C1Cl)OC1=NC(=CC(=N1)OC)OC)=O | C18H14ClN3O5S
